US07750154B2
To a solution of N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide (2.0 g) and tert-butyl 4-hydroxy-1-piperidinecarboxylate (1.69 g) in DMF (30 ml) was added sodium hydride (0.896 g of a 60% dispersion in oil) portion-wise (ice bath cooling). The reaction was stirred for 22 hours at room temperature under an atmosphere of argon. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution (200 ml) and the resulting precipitate was collected by filtration, washed with diethyl ether, and air dried to yield tert-butyl 4-{3-[({5-[(cyclopropylamino)carbonyl]-2-methylphenyl}amino)carbonyl]-4-nitrophenoxy}piperidine-1-carboxylate (2.76 g) as a yellow solid; NMR Spectrum: (DMSOd6) 0.60 (m, 2H), 0.70 (m, 2H), 1.40 (s, 9H), 1.60 (m, 2H), 1.97 (m, 2H), 2.30 (s, 3H), 2.84 (m, 1H), 3.23 (m, 2H), 3.66 (m, 2H), 4.88 (m, 1H), 7.29 (m, 2H), 7.31 (s, 1H), 7.60 (d, 1H), 7.95 (s, 1H), 8.17 (d, 1H), 8.38 (d, 1H), 10.10 (s, 1H); Mass Spectrum: M+Na+ 561.

reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | 2.0 g | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
reactant | tert-butyl 4-hydroxy-1-piperidinecarboxylate | 1.69 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | sodium hydride | [H-].[Na+]
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-{3-[({5-[(cyclopropylamino)carbonyl]-2-methylphenyl}amino)carbonyl]-4-nitrophenoxy}piperidine-1-carboxylate | 2.76 g | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-])C | C28H34N4O7
